US08202879B2
In 30 mL of tetrahydrofuran was dissolved 620 mg of 4 (3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-formylquinazoline (IV-1), the solution was cooled to 0° C. under the nitrogen atmosphere, and 4.9 mL of methylmagnesium bromide (0.93M tetrahydrofuran solution) was added dropwise. After the reaction at 0° C. for 1 hour under the nitrogen atmosphere, water and ethyl acetate were added to separate the layers. The organic layer was washed sequentially with water and aqueous saturated sodium chloride solution, and dried over magnesium sulfate. After concentration, the resulting crystal was washed with chloroform to obtain 330 mg of 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(1-hydroxyethan-1-yl)quinazoline (VI-1).

reactant | (3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-formylquinazoline | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC2=CC=C(C=C2C=N1)C=O | C22H15ClFN3O2
reactant | methylmagnesium bromide | 0.93M, 4.9 mL | C[Mg]Br
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-(3-chloro-4-(3-fluorobenzyloxy)phenylamino)-6-(1-hydroxyethan-1-yl)quinazoline | 330 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C(C)O | C23H19ClFN3O2
